US08114886B2
5-[(2,5-Difluorophenyl)[(3,5-difluorophenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde
To a solution of 2-bromo-5-[(2,5-difluorophenyl)[(3,5-difluorophenyl)thio]methyl]-4-methylpyridine (2.35 g, 5.31 mmol) in toluene (60 ml), a hexane solution of n-butyllithium (1.54 M, 4.14 ml, 6.38 mmol) was added in an argon atmosphere at −78° C. The reaction mixture was stirred for 30 minutes at −40° C., and then cooled again to −78° C., and N,N-dimethylformamide (0.494 ml, 6.38 mmol) was added. After completion of dropwise addition, the reaction mixture was Allowed to warm to 0° C., and water was added at the same temperature. Ethyl acetate was added to the reaction mixture, the organic layer was separated, and then the organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the obtained residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=10:1 was concentrated under reduced pressure to obtain the title compound (1.36 g, 3.47 mmol, 65%) as a white solid.

reactant | 2-bromo-5-[(2,5-difluorophenyl)[(3,5-difluorophenyl)thio]methyl]-4-methylpyridine | 5.31 mmol, 2.35 g | BrC1=NC=C(C(=C1)C)C(SC1=CC(=CC(=C1)F)F)C1=C(C=CC(=C1)F)F | C19H12BrF4NS
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 6.38 mmol, 1.54 M, 4.14 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 6.38 mmol, 0.494 ml | CN(C=O)C | C3H7NO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[(2,5-Difluorophenyl)[(3,5-difluorophenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde | 3.47 mmol, 1.36 g, 65% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C=O)C)SC1=CC(=CC(=C1)F)F | C20H13F4NOS
